US06984653B2
(i) Production of 3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionic acid
1N Sodium hydroxide (13 ml) was added to a solution of ethyl 3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionate (3.69 g) in methanol (50 ml), and the mixture was refluxed for 5.5 hr. The reaction mixture was neutralized with 1N hydrochloric acid and concentrated. The precipitated crystals were filtered, washed with water and recrystallized from ethyl acetate-methanol-hexane to give the titled compound (2.24 g) as a colorless crystal powder.

reactant | Sodium hydroxide | 1N, 13 ml | [OH-].[Na+]
reactant | ethyl 3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionate | 3.69 g | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCC(=O)OCC)(F)F | C31H32F3N3O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]propionic acid | 2.24 g | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCC(=O)O)(F)F | C29H28F3N3O4
